US04751319
3-tert-Butyl-2-(2,6-di-tert-butyl-4-methylphenoxy)-1,3,2-oxazaphospholidine
A 500 ml, three neck flask equipped with a thermometer, an addition funnel and a condenser topped with a nitrogen sweep is charged with 4.4 g (0.11 mol) of sodium hydride. The sodium hydride is washed with two 20 ml portions of hexane and finally suspended in 45 ml of tetrahydrofuran (THF). To the resultant suspension is added dropwise a solution of 22.04 g (0.10 mol) of 2,6-di-tert-butyl-4-methylphenol in 150 ml of THF at such a rate to keep the reaction temperature between 20°-30° C. The resulting yellow solution is warmed to approximately 40° C. for 1 hour and then cooled in an ice bath. A solution of 18.16 g (0.10 mol) of 3-tert-butyl-2-chloro-1,3,2-oxazaphospholidine in 150 ml of THF is added and stirring continued for 16 hours at room temperature. The resulting cloudy mixture is filtered and the solvent evaporated under reduced pressure. The residue is treated with 200 ml of toluene and the resultant suspension filtered. The filtrate is concentrated in vacuo to yield a thick syrup. Triturating with methanol gives 24.5 g (67.0%) of colorless solid: mp 105°-107° C.

reactant | sodium hydride | 0.11 mol, 4.4 g | [H-].[Na+]
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.10 mol, 22.04 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | 3-tert-butyl-2-chloro-1,3,2-oxazaphospholidine | 0.10 mol, 18.16 g | C(C)(C)(C)N1P(OCC1)Cl | C6H13ClNOP
solvent | THF | 150 ml | O1CCCC1 | C4H8O
solvent | THF | 150 ml | O1CCCC1 | C4H8O
product | 3-tert-Butyl-2-(2,6-di-tert-butyl-4-methylphenoxy)-1,3,2-oxazaphospholidine | 24.5 g, 67.0% | C(C)(C)(C)N1P(OCC1)OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C | C21H36NO2P
